US06048869
Step B: Preparation of N-(4'-(t-butyl)phenyl)-4,4,4-trifluorocrotonamide
A solution of 4,4,4-trifluorocrotonic acid (300 mg, 1.90 mmole), t-butylaniline (371 μL, 2.28 mmole), 1-(3-dimethylamino-propyl)-3-ethylcarbodiimide hydrochloride (510 mg, 2.66 mmole) and DMAP (8 mg) in CH2Cl2 (5 mL) was stirred at room temperature for 18 hrs. The mixture was diluted with CH2Cl2, washed with 1N NaOH, water, 1N HCl, 10% NaHCO3 and dried (MgSO4). Evaporation in vacuo to gave the title compound as a white solid. NMR (CDCl3): δ 1.33 (s, 9H); 6.63 (d, 1H); 6.90 (dq, 1H); 7.37 (s, 1H); 7.39 (d, 2H); 7.51 (d, 2H).

reactant | 4,4,4-trifluorocrotonic acid | 1.90 mmole, 300 mg | FC(/C=C/C(=O)O)(F)F | C4H3F3O2
reactant | t-butylaniline | 2.28 mmole, 371 μL | C(C)(C)(C)NC1=CC=CC=C1 | C10H15N
reactant | 1-(3-dimethylamino-propyl)-3-ethylcarbodiimide hydrochloride | 2.66 mmole, 510 mg | Cl.CN(CCCN=C=NCC)C
reactant | CH2Cl2 | 5 mL | C(Cl)Cl | CH2Cl2
catalyst | DMAP | 8 mg | CN(C)C=1C=CN=CC1 | C7H10N2
product | N-(4'-(t-butyl)phenyl)-4,4,4-trifluorocrotonamide | C(C)(C)(C)C1=CC=C(C=C1)NC(\C=C\C(F)(F)F)=O | C14H16F3NO
